US04022778
8-Chloro-10-phenyl-1,2,3,4-tetrahydropyrazino[1,2-a]indole
To a stirred solution of lithium aluminum hydride (1 gram, 0.026 mole) in 20 ml dry tetrahydrofuran (THF) is added slowly a suspension of 1,2,3,4-tetrahydro-8-chloro-10-phenylpyrazino[1,2-a] indole-1-one (5.2 grams, 0.018 mole) in 40 ml of dry THF. This reaction mixture is stirred and refluxed for 8 hours after which it is cooled and decomposed by the slow addition of 3 ml of water. After stirring 1 hour the suspension is filtered. The filtercake is washed with isopropanol, THF, and acetone. The combined filtrate is taken to dryness and recrystallized from ethanol. The product is filtered off, washed with ether, and dried. The above titled product has a m.p. 163°-64° C. yield 4.5 grams (90%).

reactant | lithium aluminum hydride | 0.026 mole, 1 gram | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,2,3,4-tetrahydro-8-chloro-10-phenylpyrazino[1,2-a] indole-1-one | 0.018 mole, 5.2 grams | ClC1=CC=2C(=C3N(C2C=C1)CCNC3=O)C3=CC=CC=C3 | C17H13ClN2O
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
product | 8-Chloro-10-phenyl-1,2,3,4-tetrahydropyrazino[1,2-a]indole | ClC1=CC=2C(=C3N(C2C=C1)CCNC3)C3=CC=CC=C3 | C17H15ClN2
